US04242518
8.6 parts of acetyl chloride are added in the course of 10 minutes to a solution, cooled to 0° C., of 16 parts of 3-hydroxy-thiophene-2-carboxylic acid methyl ester and 15.3 parts by volume of triethylamine in 100 parts by volume of chloroform. The solution is stirred for 4 hours at 0° C. After the reaction, the mixture was poured into 100 parts by volume of ice water and the organic phase is separated off, dried and concentrated. The residue is distilled. 19.4 parts (96% of theory) of 3-acetoxydihydrothiophene-2-carboxylic acid methyl ester of boiling point 82°-84° C./0.08 mbar are obtained.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 3-hydroxy-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1O | C6H6O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-acetoxydihydrothiophene-2-carboxylic acid methyl ester | 96% | COC(=O)C1SC=CC1OC(C)=O | C8H10O4S
